US07514507B2
0.972 g (manufactured by DAINIPPON INK & CHEMICALS Co., Ltd., “EXA7335”, 2 mmol) of 2,7-diglycidyloxy-1,3,4,5,6,8-hexamethyl-9-phenylxanthene, 0.372 g (2 mmol) of 4,4′-dihydroxybiphenyl, 2.62 mg (0.01 mmol) of triphenylphosphine and 1.34 g of N,N-dimethylacetamide were reacted under a nitrogen atmosphere at 160° C. for 4 hours. After cooling, the reaction solution was diluted with N,N-dimethylacetamide so as to adjust the nonvolatile content to 15% and then added dropwise in 100 ml of water. The resulting white turbid dispersion was stirred at room temperature for one hour. After the dispersion was centrifuged and suction-filtered, the resulting precipitate was washed with methanol and then vacuum-dried at 60° C. to obtain a xanthene-biphenylene copolymer type linear epoxy resin. The amount of the resulting xanthene-biphenylene copolymer type linear epoxy resin was 1.033 g and the yield was 77%.

reactant | 2,7-diglycidyloxy-1,3,4,5,6,8-hexamethyl-9-phenylxanthene | 2 mmol, 0.972 g | C(C1CO1)OC1=C(C=2C(C3=C(C(=C(C(=C3OC2C(=C1C)C)C)C)OCC1CO1)C)C1=CC=CC=C1)C | C31H34O5
reactant | 4,4′-dihydroxybiphenyl | 2 mmol, 0.372 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | triphenylphosphine | 0.01 mmol, 2.62 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylacetamide | 1.34 g | CN(C(C)=O)C | C4H9NO
product | xanthene biphenylene | yield was 77% | C1=CC=CC=2OC3=CC=CC=C3CC12.C1=CC=CC=2C3=CC=CC=C3C12 | InChI=1S/C13H10O.C12H8/c1-3-7-12-10(5-1)9-11-6-2-4-8-13(11)14-12;1-2-6-10-9(5-1)11-7-3-4-8-12(10)11/h1-8H,9H2;1-8H
